US08802864B2
4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-{[(3S)-1-(2-methylpropanoyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
Into a 50 mL round bottom flask was placed 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.342 mmol). Added to the flask was 4N HCl in dioxane (2 mL). The flask was capped and the contents were stirred at room temperature for 1 h. The solution was concentrated in vacuo. Added to the flask in succession were dichloromethane (3 mL) and N,N-diisopropylethylamine (0.200 mL). The flask was cooled to 0° C. in an ice bath. In a separate vial, isobutryl chloride (0.348 mmol) was taken up with dichloromethane (2 mL) and was added to the cold solution dropwise via pipette. The reaction was stirred for 2 h while the ice bath was allowed to warm to room temperature. The reaction was then diluted with dichloromethane (20 mL) and washed with saturated aq NH4Cl. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. Reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (65 mg, 43%). MS(ES)+ m/e 439.1 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.342 mmol | FC=1C=C(C=CC1N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C25H29FN4O4
reactant | HCl | 4N | Cl | ClH
reactant | isobutryl chloride | 0.348 mmol | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-{[(3S)-1-(2-methylpropanoyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | FC=1C=C(C=CC1N1C(NN=C1C[C@H]1CN(CC1)C(C(C)C)=O)=O)C1=CC=C(C=C1)OC | C24H27FN4O3
